US08729102B2
A) 6-(cyclopropylmethoxy)-3-methyl-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole
To a solution of 6-(cyclopropylmethoxy)-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole (218 mg) in THF (5 mL) was added dropwise a THF solution (1.11 M, 0.59 mL) of lithium diisopropylamide at −78° C. under an argon atmosphere, and the mixture was stirred for 30 min. To the reaction mixture was added methyl iodide (142 mg) at −78° C., and the mixture was stirred for 1.5 hr. Water was added to the reaction mixture, and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a colorless oil (159 mg).

reactant | 6-(cyclopropylmethoxy)-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole | 218 mg | C1(CC1)COC=1C=CC2=CN(N=C2C1)C1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H36N2O2Si
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 142 mg | CI | CH3I
reactant | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.11 M, 0.59 mL | C1CCOC1 | C4H8O
product | 6-(cyclopropylmethoxy)-3-methyl-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole | 159 mg | C1(CC1)COC=1C=CC2=C(N(N=C2C1)C1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)C | C27H38N2O2Si
